US05644052
7-Trimethylsilylamino-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylic acid trimethylsilyl ester, E-isomer (compound of formula IX)
0.71 ml of iodotrimethylsilane are added at 0° to the solution, produced as described under a), of 7-trimethylsilylamino-3-(3-acetoxy-1-propen-1-yl)-3-cephem-4-carboxylic acid trimethylsilyl ester. The solution is stirred for 15 hours at 0°. Due to the extreme hydrolyzability, characterization is again effected by NMR.

reactant | iodotrimethylsilane | 0.71 ml | I[Si](C)(C)C | C3H9ISi
reactant | 7-trimethylsilylamino-3-(3-acetoxy-1-propen-1-yl)-3-cephem-4-carboxylic acid trimethylsilyl ester | C[Si](C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N[Si](C)(C)C)=O)C=CCOC(C)=O | C18H30N2O5SSi2
product | 7-Trimethylsilylamino-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylic acid trimethylsilyl ester | C[Si](C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N[Si](C)(C)C)=O)C=CCI | C16H27IN2O3SSi2
